US05162547
A reactor equipped with stirrer, reflux condenser, dropping funnel and thermometer is charged with 180.24 g (2.0 mol) of 1,4-butanediol and 6.27 g (0.04 mol) of tin difluoride and the charge is heated to 130° C. Then, with efficient stirring, 388.6 g (4.20 mol) of epichlorohydrin are added over 2 hours at a temperature of 130°-140° C., the reaction being initially exothermic. After 3 hours at this temperature, the reaction mixture is cooled to 50° C. and to the turbid solution are added 350 ml of xylene, followed by the addition of 30 g of Prolit Rapid® (filter aid). After stirring for 15 minutes, the suspension is filtered and the filtrate is freed from solvent on a rotary evaporator. Analysis of the tin content of the residual liquid chlorohydrin ether shows that this ether still contains only about 13% of the total amount of tin catalyst, i.e. 87% of the catalyst can be separated by filtration. The liquid chlorohydrin ether (589 g) is heated to 55° C. and 336 g (4.2 mol) of a 50% aqueous solution of sodium hydroxide are added dropwise at this temperature, with efficient stirring, over 30 minutes. After stirring for 2.5 hours at 50°-60° C. and cooling to room temperature, the suspension is filtered and the filtrate washed with xylene. The organic phase of the two-phase clear filtrate is dried over magnesium sulfate and filtered, and the filtrate is freed from solvent on a rotary evaporator under vacuum (bath temperature 50° C.). Yield: 343 g (85% of theory) of colourless 1,4-butanediol diglycidyl ether for which the following analytical values are obtained: epoxy value: 7.81 eq/kg; total chlorine content: 5.5%; hydrolysable chlorine content: 131 ppm.

reactant | 1,4-butanediol | 2.0 mol, 180.24 g | C(CCCO)O | C4H10O2
reactant | epichlorohydrin | 4.20 mol, 388.6 g | C(Cl)C1CO1 | C3H5ClO
catalyst | tin difluoride | 0.04 mol, 6.27 g | [Sn](F)F
solvent | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,4-butanediol diglycidyl ether | Yield: 343 g, 85% | C(C1CO1)OCCCCOCC1CO1 | C10H18O4
